US08470859B2
5-chloro-2-imino-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,2-dihydropyridine-3-carboxamide hydrochloride
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 2-(bromomethyl)-5-(trifluoromethyl)furan (0.30 g), and the mixture was stirred at 100° C. for 4 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate. The obtained crystals were dissolved in aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was treated by silica gel chromatography (ethyl acetate 100%→ethyl acetate:methanol=5:1) to give a yellow solid. The obtained solid was dissolved in methanol, and 2N hydrochloric acid-methanol solution (0.3 ml) was added. The solvent was concentrated under reduced pressure and the residue was crystallized from methanol-ethyl acetate to give the title compound (45 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | 0.30 g | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
reactant | hydrochloric acid methanol | 2N, 0.3 ml | Cl.CO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 5-chloro-2-imino-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,2-dihydropyridine-3-carboxamide hydrochloride | 45 mg | Cl.ClC=1C=C(C(N(C1)CC=1OC(=CC1)C(F)(F)F)=N)C(=O)N | InChI=1S/C12H9ClF3N3O2.ClH/c13-6-3-8(11(18)20)10(17)19(4-6)5-7-1-2-9(21-7)12(14,15)16;/h1-4,17H,5H2,(H2,18,20);1H
